US04025637
4-chlorophenylisocyanate (3.1 g.) was slowly added to a stirred solution of 2-(3-amino-4-hydroxyphenyl propionitrile (3.3 g.) in xylene (35 ml.) at room temperature. When the addition was complete p-toluenesulphonic acid (250 mg.) was added, and the solution was heated under reflux using a Dean and Stark apparatus. On cooling, the solution was washed with aqueous sodium bicarbonate solution and evaporated to dryness. The residue was recrystallised to give 2-[2-(4-chloroanilino)-5-benzoxazolyl]propionitrile as a creme solid which was characterised by n.m.r. spectroscopy.

reactant | 4-chlorophenylisocyanate | 3.1 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 3-amino-4-hydroxyphenyl propionitrile | 3.3 g | NC=1C=C(C=CC1O)C(C#N)C | C9H10N2O
reactant | p-toluenesulphonic acid | 250 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 35 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[2-(4-chloroanilino)-5-benzoxazolyl]propionitrile | ClC1=CC=C(NC=2OC3=C(N2)C=C(C=C3)C(C#N)C)C=C1 | C16H12ClN3O
